US04985419
A mixture of (2RS)-2-(2-cyano-10-phenothiazinyl)-1-propyl methanesulphonate (10 g) and pyrrolidine (11.6 cc) in toluene (50 cc) is brought to 90° C. with stirring for 24 hours. After cooling, the mixture is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. and the residue is taken up with ethyl ether (200 cc) and 4N aqueous sodium hydroxide solution (15 cc). After stirring for 10 minutes, settling is allowed to take place and the organic phase is washed with saturated aqueous sodium chloride solution (3×25 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 20° C. The residual oil (11.3 g) is dissolved in 0.5N aqueous hydrochloric acid solution (60 cc). This solution is washed with ethyl ether (100 cc), then alkalinized with an excess of N aqueous sodium hydroxide solution and extracted with ethyl ether (100 cc). The organic phase is washed with saturated aqueous sodium chloride solution (50 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 20° C. The residual yellow oil (9.5 g) is purified on a column (height: 30 cm; diameter: 5.8 cm) on silica gel (0.04-0.063 mm) under a slight excess pressure of nitrogen (40 kPa), eluting with a mixture (95:5 by volume) (one litre) of methylene chloride and methanol and collecting 100-cc fractions. Fractions 3 to 10 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. 10-[2RS]-1-(1-Pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonitrile (5.45 g) is thereby obtained in the form of a yellow oil.

reactant | (2RS)-2-(2-cyano-10-phenothiazinyl)-1-propyl methanesulphonate | 10 g | CS(=O)(=O)OCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C17H16N2O3S2
reactant | pyrrolidine | 11.6 cc | N1CCCC1 | C4H9N
solvent | toluene | 50 cc | C1(=CC=CC=C1)C | C7H8
product | 2-phenothiazinecarbonitrile | 5.45 g | C1=C(C=CC=2SC3=CC=CC=C3NC12)C#N | C13H8N2S
